US06469023B1
5-Amino-7-[1-amino-5-azaspiro[2.4]heptan-5-yl]-6,8-difluoro-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylic Acid [Isomer I (1-b)]
A 346 mg (1.00 mmol) portion of 5-benzyloxycarbonyl-1-tert-butoxycarbonylamino-5-azaspiro[2.4]heptane (1-b) was dissolved in 30 ml of ethanol, and the solution was mixed with 350 mg of 10% palladium-carbon and subjected to 4 hours of hydrogenation under atmospheric pressure. After completion of the reaction, 10% palladium-carbon was removed by filtration and ethanol was evaporated. The thus obtained residue was suspended in 10 ml of acetonitrile, and the suspension was mixed with 210 mg (0.67 mmol) of 5-amino-6,7,8-trifluoro-1-[(1R,2S)-2-fluorocyclopropyl]1,4-dihydro-4-oxoquinoline-3-carboxylic acid and 0.93 ml (6.67 mmol) of triethylamine, and heated under reflux for 18 hours. After evaporation of the solvent, the thus obtained residue was mixed with chloroform, washed with water, 10% citric acid aqueous solution and saturated brine in that order, and then dried over anhydrous sodium sulfate, subsequently evaporating the solvent. The thus obtained tert-butylcarbamate compound was mixed with 5 ml of concentrated hydrochloric acid, stirred at room temperature for 30 minutes, adjusted to pH 7.4 with sodium hydroxide aqueous solution and then extracted with chloroform, and the extract was dried over anhydrous sodium sulfate. After evaporation of the solvent, the resulting residue was recrystallized from ethanol-ether to yield 198 mg (78%) of the title compound.

reactant | 5-benzyloxycarbonyl-1-tert-butoxycarbonylamino-5-azaspiro[2.4]heptane | C(C1=CC=CC=C1)OC(=O)N1CC2(CC2NC(=O)OC(C)(C)C)CC1 | C19H26N2O4
reactant | 5-amino-6,7,8-trifluoro-1-[(1R,2S)-2-fluorocyclopropyl]1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.67 mmol, 210 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)[C@H]1[C@H](C1)F)C(=O)O)=O | C13H8F4N2O3
reactant | triethylamine | 6.67 mmol, 0.93 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 350 mg | [C].[Pd]
product | 5-Amino-7-[1-amino-5-azaspiro[2.4]heptan-5-yl]-6,8-difluoro-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylic Acid | 198 mg, 78% | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC2(CC2N)CC1)F)[C@H]1[C@H](C1)F)C(=O)O)=O | C19H19F3N4O3
